US08133998B2
To a cooled (0° C.) solution of tert-butyl amine (5.25 mL, 50 mmol) in DCM (40 mL) was added triethylamine (14 mL, 101 mmol) followed by chloro acetylchloride (3.98 mL, 50.3 mmol). The reaction was warmed to RT and stirred for 2 h. The reaction mixture was concentrated, redissolved in EtOAc (20 mL) and washed with brine. The organic layer was dried over anhydrous Na2SO4 and concentrated to yield 5.39 g of crude product which was further purified by flash column chromatography using 7:3 Pet. Ether: EtOAc as the eluant. Pure N-tert-butyl-2-chloroacetamide (3.65 g) was isolated.

reactant | tert-butyl amine | 50 mmol, 5.25 mL | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 101 mmol, 14 mL | C(C)N(CC)CC | C6H15N
reactant | chloro acetylchloride | 50.3 mmol, 3.98 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-2-chloroacetamide | 3.65 g | C(C)(C)(C)NC(CCl)=O | C6H12ClNO
